US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-nitro-1-benzofuran-2-carboxamide
1040 mg (5.02 mmol) of 6-nitrobenzofuran-2-carboxylic acid, 1000 mg (5.02 mmol) of (R)-3-aminoquinuclidine dihydrochloride, 2290 mg (6.03 mmol) of HATU, 2250 mg (18.08 mmol) of N,N-diisopropylethylamine and 9 ml of DMF are reacted according to the general procedure (variant B). DMF is removed under reduced pressure. The product is taken up in 100 ml of 1N aqueous sodium hydroxide solution and extracted three times with in each case 50 ml of ethyl acetate. The combined organic phases are washed eight times with 1N aqueous sodium hydroxide solution and once with saturated sodium chloride solution and then dried over magnesium sulfate, and the solvent is removed under reduced pressure using a rotary evaporator. 1.34 g (79% of theory) of the title compound are obtained.

reactant | 6-nitrobenzofuran-2-carboxylic acid | 5.02 mmol, 1040 mg | [N+](=O)([O-])C1=CC2=C(C=C(O2)C(=O)O)C=C1 | C9H5NO5
reactant | (R)-3-aminoquinuclidine dihydrochloride | 5.02 mmol, 1000 mg | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | HATU | 6.03 mmol, 2290 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 18.08 mmol, 2250 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 9 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-nitro-1-benzofuran-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=CC=C1[N+](=O)[O-] | C16H17N3O4
